US06610685B2
6.00 g sodium hydride 55-65% in oil in portion was added during ca 30 min at room temperature to a solution of 23.5 g 2,3-dihydro-1H-3a-aza-cyclopenta[a]inden-6-ol in 200 mL dimethylsulfoxide. 18.75 g potassium carbonate and 1.700 g potassium iodide and 34 mL cyclopropylbromide was added to the resulting solution. The resulting suspension was stirred under argon at 100° C. for 48 h. Another 17 mL cyclopropylbromide was added. The resulting suspension was stirred under argon at 100° C. for 24 h. The reaction mixture was diluted with water and extracted with dichloromethane. The organic phase was purified by chromatography on silica gel with hexane:dichloromethane=1:1 to yield 17.75 g 6-Cyclopropoxy-2,3-dihydro-1H-3a-aza-cyclopenta[a]indene as a white crystalline solid melting at 61-63° C.

reactant | sodium hydride | 6.00 g | [H-].[Na+]
reactant | 2,3-dihydro-1H-3a-aza-cyclopenta[a]inden-6-ol | 23.5 g | C1CCN2C1=CC=1C=C(C=CC21)O | C11H11NO
reactant | potassium carbonate | 18.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.700 g | [I-].[K+]
reactant | cyclopropylbromide | 34 mL | C1(CC1)Br | C3H5Br
reactant | cyclopropylbromide | 17 mL | C1(CC1)Br | C3H5Br
solvent | dimethylsulfoxide | 200 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 6-Cyclopropoxy-2,3-dihydro-1H-3a-aza-cyclopenta[a]indene | 17.75 g | C1(CC1)OC1=CC=2C=C3N(C2C=C1)CCC3 | C14H15NO
